US08426437B2
This compound is prepared according to synthesis 25, from 150 mg (0.46 mmol) of 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid (synthesis 2) and 55 μL (0.55 mmol) of 3,5-difluoro-aniline. After purification by chromatography on silica gel (dichloromethane/methanol 95/5) then trituration in diethyl ether, 3 mg (2%) of 8-(3,5-difluorophenylsulfamoyl)-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-ethyl carboxylate is obtained in the form of a white solid.

reactant | 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid | 0.46 mmol, 150 mg | ClS(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3C(=O)O | C12H7ClN2O5S
reactant | 3,5-difluoro-aniline | 0.55 mmol, 55 μL | FC=1C=C(N)C=C(C1)F | C6H5F2N
product | 8-(3,5-difluorophenylsulfamoyl)-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline 1-ethyl carboxylate | 3 mg, 2% | FC=1C=C(C=C(C1)F)NS(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3.C(C)C(=O)[O-] | InChI=1S/C17H11F2N3O3S.C3H6O2/c18-9-5-10(19)7-11(6-9)22-26(24,25)12-1-2-15-14(8-12)13-3-4-20-16(13)17(23)21-15;1-2-3(4)5/h1-8,20,22H,(H,21,23);2H2,1H3,(H,4,5)/p-1
